US08110577B2
Preparation of 7-Cyano-2-(3-methyl[1,2,4]thiadiazol-5-yl)heptanoic Acid (2021052)
To stirred trifluoroacetic acid (20 mL) was added 2-(5-cyanopentyl)-2-(3-methyl[1,2,4]thiadiazol-5-yl)malonic acid di-tert-butyl ester (2021051) (0.75 g, 1.83 mmol) and the resultant mixture was stirred at room temperature for 1.5 h. The TFA was then removed under reduced pressure, while the temperature of the water bath was maintained below 25° C. The resultant oil was dissolved in dichloromethane (20 mL) and made basic with the careful addition of triethylamine, while keeping the reaction temperature below 20° C. The dichloromethane solution of 7-cyano-2-(3-methyl[1,2,4]thiadiazol-5-yl)heptanoic acid (2021052) was then immediately used in the next step.

reactant | 2-(5-cyanopentyl)-2-(3-methyl[1,2,4]thiadiazol-5-yl)malonic acid di-tert-butyl ester | 1.83 mmol, 0.75 g | C(C)(C)(C)OC(C(C(=O)OC(C)(C)C)(C1=NC(=NS1)C)CCCCCC#N)=O | C20H31N3O4S
solvent | trifluoroacetic acid | 20 mL | FC(C(=O)O)(F)F | C2HF3O2
product | 7-Cyano-2-(3-methyl[1,2,4]thiadiazol-5-yl)heptanoic Acid | C(#N)CCCCCC(C(=O)O)C1=NC(=NS1)C | C11H15N3O2S
